US04108885
N-(3-dimethylammoniopropyl)-thiocarbamic acid-S-ethyl ester chloride
14.25 g (0.075 mole) of N-(3-dimethylaminopropyl)-thiocarbamic acid-S-ethyl ester are dissolved in 250 ml of absolute ether. While stirring and cooling, dry HCl gas is introduced. After 1 hour the product is suction-filtered. One obtains 14.1 g (83.4% of the theory) of the Mp. 87°-93° C. After reprecipitation from isopropanol/ether one obtains a product of the Mp. 93°-94° C.

reactant | N-(3-dimethylaminopropyl)-thiocarbamic acid-S-ethyl ester | 0.075 mole, 14.25 g | C(C)SC(NCCCN(C)C)=O | C8H18N2OS
reactant | HCl | Cl | ClH
solvent | ether | 250 ml | CCOCC | C4H10O
product | N-(3-dimethylammoniopropyl)-thiocarbamic acid-S-ethyl ester chloride | [Cl-].C(C)SC(NCCC[NH+](C)C)=O | InChI=1S/C8H18N2OS.ClH/c1-4-12-8(11)9-6-5-7-10(2)3;/h4-7H2,1-3H3,(H,9,11);1H
